US06660753B2
A mixture of 2-[3-bromophenyl]-4-[pyridin-2-yl]-1,3-oxazole (23 mg, 0.076 mmol) and zinc cyanide (112 mg, 0.96 mmol) in N,N-dimethylformamide (2 mL) was treated with Pd(PPh3)4 (74 mg, 0.064 mmol) and heated overnight at 80° C. Standard work up and chromatography afforded 6 mg (32%) of 2-[3-cyanophenyl]-4-[pyridin-2-yl]-1,3-oxazole as a white solid. 1H-NMR (CDCl3), δ (ppm): 8.61 (d, 1H), 8.45 (s, 1H), 8.38 (s, 1H), 8.36 (m, 1H),8.00 (d, 1H), 7.80 (m, 2H), 7.61 (t, 1H), 7.23 (m, 1H).

reactant | 2-[3-bromophenyl]-4-[pyridin-2-yl]-1,3-oxazole | 0.076 mmol, 23 mg | BrC=1C=C(C=CC1)C=1OC=C(N1)C1=NC=CC=C1 | C14H9BrN2O
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.96 mmol, 112 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.064 mmol, 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3-cyanophenyl]-4-[pyridin-2-yl]-1,3-oxazole | 6 mg, 32% | C(#N)C=1C=C(C=CC1)C=1OC=C(N1)C1=NC=CC=C1 | C15H9N3O
